2131-01-16 08:01:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2131-1-15**] 10:30 PM
 NON-INVASIVE VENTILATION - STOP [**2131-1-16**] 03:00 AM
 INVASIVE VENTILATION - START [**2131-1-16**] 03:15 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2131-1-16**] 05:40 AM
 BRONCHOSCOPY - At [**2131-1-16**] 05:42 AM
 MULTI LUMEN - START [**2131-1-16**] 05:50 AM
 ARTERIAL LINE - START [**2131-1-16**] 06:55 AM
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Effexor (Oral) (Venlafaxine Hcl)
   Unknown;
   Atenolol
   decreased pulse
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-1-15**] 11:38 PM
   Midazolam (Versed) - [**2131-1-16**] 05:48 AM
   Fentanyl - [**2131-1-16**] 05:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-16**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 85 (73 - 99) bpm
   BP: 107/46(64) {107/46(64) - 107/46(64)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
             1,153 mL
   PO:
             TF:
   IVF:
   1,153 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    905 mL
   Urine:
                                                                    340 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 600 (600 - 612) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.26/75/193/28/4
   Ve: 9.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: few rhonchi bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   246 K/uL
   8.4 g/dL
   168 mg/dL
   1.5 mg/dL
   28 mEq/L
   5.3 mEq/L
   45 mg/dL
   107 mEq/L
   141 mEq/L
   25.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2131-1-16**]  01:36 AM
                             [**2131-1-16**]  06:38 AM
   WBC
   6.8
   Hct
   25.6
   Plt
   246
   Cr
   1.5
   TCO2
   35
   Glucose
   168
   Other labs: PT / PTT / INR:12.7/34.8/1.1, Differential-Neuts:69.0 %,
   Lymph:22.0 %, Mono:7.5 %, Eos:1.3 %, Mg++:2.4 mg/dL
   Assessment and Plan
   This is a 35 year-old male with a history of morbid obesity, sleep
   apnea, and polyarticular arthritis who presented to the orthopedics
   service for TKR now transferred to the [**Hospital Unit Name 10**] with hypercarbic
   respiratory failure.
   .
   Plan:
   .
   # Respiratory Failure: Hypoxia most likely is primarily a result of
   atelectasis and possibly some level of OSA/pulmonary HTN/COPD at
   baseline (given long smoking history).  Hypercapnia on the other hand
   probably primarily attributable to Pickwikian syndrome, OSA, and poor
   respiratory mechanics leading to tiring.  These second group of
   processes were almost certainly worsened by the supplementary narcotics
   depressing central respiratory drive.
   - Intubated due to agitation and severe confusion likely related to
   hypercarbia
   - Heparin gtt for now given small filling defect on prior CTA, touch
   base with radiology in AM
   - LENIs
   - Hemodynamic monitoring with arterial line
   - Minimize sedation
   - Though concern for aspiration on c-xray, will not treat for now as
   hemodynamically stable, no fever or WBC.  Low threshold to start abx if
   any change in above parameters.
   .
   # Hypotension: Transient hypotension in the setting of initiation of
   propofol.  Given 1 L fluid bolus and switched to versed/fentanyl.
   Cardiopulmonary processes less likely.
   - Central venous line, check CVPs to assess volume status as body
   habitus makes this difficult
   - Treat empirically for PE for now given above
   - IVF pending CVPs
   - Hold antihypertensives
   - A-line for closer monitoring
   .
   # Acute renal failure - DDx of renal failure includes pre-renal failure
   due to hypovolemia and fluid loss/blood loss. Also could be intrinisic
   renal insult such as ATN from intra-op relative hypotension or AIN from
   a drug reaction.  Responded to IVF overnight.
   - Check CVP once central line placed, IVF accordingly
   - Check urine sodium, creatinine, osmolality, and smear for urine
   eosinophils
   - Hold nephrotoxic meds including ACEI, NSAIDs
   .
   # Agitation: Likely related to hypercarbia and reflects hypercarbic
   encephalopathy.
   - Correct respiratory processes as above
   .
   # s/p ortho procedure - stable.
   - Ortho team following
   .
   # FEN: NPO for now
   .
   # Access: 18 g, 20 g, attempting central line
   .
   # PPx: heparin gtt
   .
   # Code:  presumed full
   .
   # Dispo:  pending improvement
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-1-15**] 10:48 PM
   20 Gauge - [**2131-1-16**] 01:34 AM
   Multi Lumen - [**2131-1-16**] 05:50 AM
   Arterial Line - [**2131-1-16**] 06:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-01-17 07:40:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 URINE CULTURE - At [**2131-1-16**] 10:17 AM
 BLOOD CULTURED - At [**2131-1-16**] 10:20 AM
 ULTRASOUND - At [**2131-1-16**] 11:16 AM
   renal US done at bedside.
 ULTRASOUND - At [**2131-1-16**] 11:16 AM
   LENIS at bedside
 TRANSTHORACIC ECHO - At [**2131-1-16**] 02:23 PM
 BLOOD CULTURED - At [**2131-1-17**] 04:00 AM
 URINE CULTURE - At [**2131-1-17**] 04:00 AM
 FEVER - 101.9
F - [**2131-1-17**] 04:00 AM
   - Zosyn/vanco started in evening for temp to 101 (tylenol was d/c'd in
   am) to cover HAP and aspiration PNA. Ortho aware
   - started on Haldol 5 IV TID. Trying to titrate down on Fentanyl/
   Versed gtt's as able.  Will need daily EKGs (ordered already for [**1-17**])
   -Was hypertensive to SBP to 170's so Metoprolol 5mg IV x1 given with
   good relief. Perhaps may need more BP meds (consider PO metoprolol)
   before able to go down on sedation
   -Heparin gtt started for possible PE as CTA non-diagnostic per
   radiology. [**Month (only) 11**] consider rpt CTA in future if Cr comes down (currently
   in ARF)
   - BNP checked was 100
   - Insulin SS ordered.
   -urine legionella negative. Other cultures pending
   - Renal US ordered for ARF and ? horseshoe kidney but pending
   -LENI's ordered and pending
   - TTE  Suboptimal image quality. Normal left ventricular cavity sizes
   with preserved global systolic function. LVEF >55%
   - Urine lytes done with FENA 0.05%
   -Plan for CTA chest for am- needs to be ordered first thing.
   Prehydration and acetylcysteine ordered
   -Lasix 20IV x1 in am. Pt diuresed 1.2L by late evening.
   Patient unable to provide history: intubated
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Effexor (Oral) (Venlafaxine Hcl)
   Unknown;
   Atenolol
   decreased pulse
   Last dose of Antibiotics:
   Vancomycin - [**2131-1-16**] 05:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2131-1-17**] 01:10 AM
   Infusions:
   Heparin Sodium - 2,050 units/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2131-1-16**] 10:15 AM
   Metoprolol - [**2131-1-16**] 03:10 PM
   Midazolam (Versed) - [**2131-1-16**] 04:22 PM
   Fentanyl - [**2131-1-16**] 04:22 PM
   Heparin Sodium - [**2131-1-16**] 06:45 PM
   Famotidine (Pepcid) - [**2131-1-16**] 07:42 PM
   Haloperidol (Haldol) - [**2131-1-17**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-17**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 92 (77 - 97) bpm
   BP: 162/80(103) {117/53(73) - 165/80(103)} mmHg
   RR: 20 (20 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 13 (5 - 15)mmHg
   Total In:
                                                                  3,041 mL
                                                                  1,078 mL
   PO:
   TF:
   IVF:
                                                                  2,851 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                  4,285 mL
                                                                  1,250 mL
   Urine:
                                                                  4,285 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,244 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.42/54/130/31/9
   Ve: 13.6 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   239 K/uL
   8.7 g/dL
   154 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.5 mEq/L
   27 mg/dL
   105 mEq/L
   144 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2131-1-16**]  01:36 AM
                             [**2131-1-16**]  06:38 AM
                             [**2131-1-16**]  08:17 AM
                             [**2131-1-16**]  10:51 AM
                             [**2131-1-16**]  03:59 PM
                             [**2131-1-16**]  04:12 PM
                             [**2131-1-17**]  01:04 AM
                             [**2131-1-17**]  04:17 AM
                             [**2131-1-17**]  06:28 AM
   WBC
   6.8
   7.5
   Hct
   25.6
   26.8
   Plt
   246
   239
   Cr
   1.5
   1.2
   1.0
   TCO2
   35
   34
   32
   36
   36
   36
   Glucose
   168
   169
   154
   Other labs: PT / PTT / INR:13.9/65.5/1.2, Differential-Neuts:64.5 %,
   Lymph:24.3 %, Mono:9.5 %, Eos:1.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: Renal U/S:
   IMPRESSION: Horseshoe kidney. No evidence of hydronephrosis
   Bilateral Lower Extremity U/S:
   IMPRESSION: No evidence of DVT.
   Assessment and Plan
   This is a 35 year-old male with a history of morbid obesity, sleep
   apnea, and polyarticular arthritis who presented to the orthopedics
   service for TKR now transferred to the [**Hospital Unit Name 10**] with hypercarbic
   respiratory failure.
   # Respiratory Failure: Hypoxia most likely is primarily a result of
   atelectasis and possibly some level of OSA/pulmonary HTN/COPD at
   baseline (given long smoking history).  Hypercapnia on the other hand
   probably primarily attributable to Pickwikian syndrome, OSA, and poor
   respiratory mechanics leading to tiring.  These second group of
   processes were almost certainly worsened by the supplementary narcotics
   depressing central respiratory drive.
   - Intubated due to agitation and severe confusion likely related to
   hypercarbia
   - Heparin gtt for now given small filling defect on prior CTA, touch
   base with radiology in AM
   - LENIs
   - Hemodynamic monitoring with arterial line
   - Minimize sedation
   - Though concern for aspiration on c-xray, will not treat for now as
   hemodynamically stable, no fever or WBC.  Low threshold to start abx if
   any change in above parameters.
   # Hypotension: Transient hypotension in the setting of initiation of
   propofol.  Given 1 L fluid bolus and switched to versed/fentanyl.
   Cardiopulmonary processes less likely.
   - Central venous line, check CVPs to assess volume status as body
   habitus makes this difficult
   - Treat empirically for PE for now given above
   - IVF pending CVPs
   - Hold antihypertensives
   - A-line for closer monitoring
   # Acute renal failure - DDx of renal failure includes pre-renal failure
   due to hypovolemia and fluid loss/blood loss. Also could be intrinisic
   renal insult such as ATN from intra-op relative hypotension or AIN from
   a drug reaction.  Responded to IVF overnight.
   - Check CVP once central line placed, IVF accordingly
   - Check urine sodium, creatinine, osmolality, and smear for urine
   eosinophils
   - Hold nephrotoxic meds including ACEI, NSAIDs
   # Agitation: Likely related to hypercarbia and reflects hypercarbic
   encephalopathy.
   - Correct respiratory processes as above
   # s/p ortho procedure - stable.
   - Ortho team following
   # FEN: NPO for now
   # Access: 18 g, 20 g, attempting central line
   # PPx: heparin gtt
   # Code:  presumed full
   # Dispo:  pending improvement
 IMPAIRED PHYSICAL MOBILITY
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-1-16**] 01:34 AM
   Multi Lumen - [**2131-1-16**] 05:50 AM
   Arterial Line - [**2131-1-16**] 06:55 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-01-18 07:44:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, hypercarbia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2131-1-17**] 02:23 PM
 ARTERIAL LINE - STOP [**2131-1-17**] 03:00 PM
 FEVER - 102.7
F - [**2131-1-17**] 08:00 AM
   -[**Name (NI) **] [**Name (NI) 547**] (brother):  [**Numeric Identifier 4046**]
   -Extubated in afternoon and was initially lethargic but became more
   alert toward evening
   -put on nitro drip briefly for hypertension (SBP 210) but d/c'd after
   less than one hour
   -heparin gtt stopped based on neg prelim read of chest cta
   -ortho saw patient and thought that knee was not infected/cause of
   patient's fevers
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Effexor (Oral) (Venlafaxine Hcl)
   Unknown;
   Atenolol
   decreased pulse
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-1-17**] 10:18 AM
   Vancomycin - [**2131-1-17**] 08:32 PM
   Piperacillin - [**2131-1-18**] 02:14 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2131-1-17**] 04:11 PM
   Famotidine (Pepcid) - [**2131-1-17**] 07:39 PM
   Haloperidol (Haldol) - [**2131-1-18**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: [**4-11**] Moderate
   Pain location: neck, knee, back (chronic)
   Flowsheet Data as of  [**2131-1-18**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.3
C (97.4
   HR: 74 (72 - 98) bpm
   BP: 165/70(92) {130/52(75) - 169/83(97)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 20 (9 - 20)mmHg
   Total In:
                                                                  3,302 mL
                                                                    174 mL
   PO:
                                                                  1,000 mL
   TF:
   IVF:
                                                                  2,177 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  4,440 mL
                                                                    660 mL
   Urine:
                                                                  4,440 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,138 mL
                                                                   -486 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 4 L
   SpO2: 95%
   ABG: 7.42/50/152/33/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 3,800
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time (missed date but knew
   month/yr), Movement: Purposeful, Tone: Normal
   Labs / Radiology
   241 K/uL
   8.8 g/dL
   160 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.4 mEq/L
   17 mg/dL
   104 mEq/L
   142 mEq/L
   25.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2131-1-16**]  10:51 AM
                             [**2131-1-16**]  03:59 PM
                             [**2131-1-16**]  04:12 PM
                             [**2131-1-17**]  01:04 AM
                             [**2131-1-17**]  04:17 AM
                             [**2131-1-17**]  06:28 AM
                             [**2131-1-17**]  11:44 AM
                             [**2131-1-17**]  02:08 PM
                             [**2131-1-17**]  03:03 PM
                             [**2131-1-18**]  04:28 AM
   WBC
   7.5
   8.6
   Hct
   26.8
   25.7
   Plt
   239
   241
   Cr
   1.2
   1.0
   1.0
   TCO2
   32
   36
   36
   36
   37
   36
   34
   Glucose
   169
   154
   160
   Other labs: PT / PTT / INR:13.7/29.6/1.2, Differential-Neuts:67.5 %,
   Lymph:20.5 %, Mono:9.9 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CTA on [**2131-1-17**] (preliminiary)
   1. Limited study for the evaluation of pulmonary embolism due to body
   habitus, breathing motion artifact, and poor opacification of the
   pulmonary
   artery. No evidence of central or lobar pulmonary embolism. Although
   the
   study is not optimal, the questionable filling defects in the left
   lower lobe
   branch are not confirmed in this study.
   2. Endotracheal tube terminates at 2.6 cm above the carina.
   Repositioning is
   recommended.
   3. Bilateral upper lobe small atelectasis, right greater than left.
   4. Right eventration.
   Microbiology: Legionell antigen (-)
   Assessment and Plan
   This is a 35 year-old male with a history of morbid obesity, sleep
   apnea, and polyarticular arthritis who presented to the orthopedics
   service for TKR now transferred to the [**Hospital Unit Name 10**] with hypercarbic
   respiratory failure.
    # Respiratory Failure: Hypoxia most likely is primarily a result of
   atelectasis and possibly some level of OSA/pulmonary HTN/COPD at
   baseline (given long smoking history).  Hypercapnia on the other hand
   probably primarily attributable to Pickwikian syndrome, OSA, and poor
   respiratory mechanics leading to tiring.  There is some concern for
   pulmonary embolism given demographics and unclear area on initial CTA,
   but [**Name (NI) **]
s negative for clot.
   - Heparin gtt for now given small filling defect on prior CTA,
   repeating today
   -If second CTA negative for filling defect will d/c heparin
   - Hemodynamic monitoring with arterial line
   - Minimize sedation
   -receiving treatment for possible aspiration pneumonia w/ vanc and
   pip-tazo
   -attempt SBT this PM
    # Hypotension: Transient hypotension in the setting of initiation of
   propofol.  Given 1 L fluid bolus and switched to versed/fentanyl.
   Cardiopulmonary processes less likely.
   - IVF pending CVPs
   - Hold antihypertensives
    # Acute renal failure
 FeNa c/w prerenal etiology and Cr. Continues
   to improve.
   -hold IVF for now given concern for some volume overload
   - Hold nephrotoxic meds including ACEI, NSAIDs
    # Agitation: Patient requiring large doses of sedation due to attempts
   to displace lines/tubes and agitation.
   -Haloperidol 5 mg Q6hrs
   -Minimize sedation
    # s/p ortho procedure
 Some erythema of left leg today though joint
   area itself doesn
t look swollen
   -speak to ortho team re: need to tap
   # FEN: NPO for now, consider tube feeds if not extubated by tomorrow,
   goal fluid balance even
    # Access: 20 g, central line, A-line
    # PPx: heparin gtt, H2 blocker
    # Code: FULL
    # Dispo:  ICU
 IMPAIRED PHYSICAL MOBILITY
 .H/O [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-1-15**] 10:00 PM
   Multi Lumen - [**2131-1-16**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: